US04301295
While stirring, 30 g of 4(4-methylthio-phenoxy)-phenol were dissolved in 350 ml of methylethyl-ketone. After addition of 18 g of potassium carbonate and 16 g of chloroacetic acid ethyl ester, the mixture was heated at the boil for 8 hours. Inorganic components were then separated by suction-filtration. After vaporization of the organic solvent, the residue was dissolved in 300 ml of methylene chloride and the solution was shaken several times with water. The organic phase was vaporized and the residue was distilled in vacuo. 25 g of 4(4-methylthio-phenoxy)-phenoxy-acetic acid ethyl ester were obtained, boiling point: 215°-230°/3-4 mm mercury.

reactant | 4(4-methylthio-phenoxy)-phenol | 30 g | CC1=CC=C(SC2=CC=C(C=C2)O)C=C1 | C13H12OS
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid ethyl ester | 16 g | C(C)OC(CCl)=O | C4H7ClO2
solvent | methylethyl-ketone | 350 ml | CC(=O)CC | C4H8O
product | 4(4-methylthio-phenoxy)-phenoxy-acetic acid ethyl ester | 25 g | C(C)OC(COC1=CC=C(C=C1)SC1=CC=C(C=C1)C)=O | C17H18O3S
